US07012090B1
Step A: Acetic acid 3-methyl-4-nitro-2-(2-propenyl)-phenyl ester
To a solution of 3-methyl-4-nitro-2-(2-propenyl)-phenol (5.19 g, 26.9 mmol) in dichloromethane (200 ml) at 0° was added triethylamine (5.43 g, 53.8 mmol) and acetic anhydride (3.29 g, 32.3 mmol). After 30 min, the reaction mixture was evaporated to a residue which was purified by chromatography (silica, 2% to 10% ethyl acetate in hexane) to give an orange oil (4.80 g, 76%).

reactant | 3-methyl-4-nitro-2-(2-propenyl)-phenol | 26.9 mmol, 5.19 g | CC=1C(=C(C=CC1[N+](=O)[O-])O)CC=C | C10H11NO3
reactant | triethylamine | 53.8 mmol, 5.43 g | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 32.3 mmol, 3.29 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | Acetic acid 3-methyl-4-nitro-2-(2-propenyl)-phenyl ester | 4.80 g, 76% | CC=1C(=C(C=CC1[N+](=O)[O-])OC(C)=O)CC=C | C12H13NO4
